US06538004B2
4-(3-bromo-4-fluorophenyl)-2-methyl-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione
3-Bromo-4-fluorobenzaldehyde (0.3 g, 1.5 mmol), 1,3cyclopentadione (0.15 g, 1.5 mmol), and 5-amino-2-methyl-1,2-dihydropyrazol-3-one (0.17 g, 1.5 mmol), prepared by the method of (C. Taylor and J. Barton, J.Am.ChemSoc., (1959) 81, 2448) were processed as described in Example 1 to provide 0.32 g of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 2.21 (t, 2H), 2.59 (m, 2H), 3.38 (s, 3H), 4.75 (s, 1H), 7.13 (m, 1H), 7.2 (t, 1H), 7.42 (dd, 1H), 10.16 (s, 1H), 10.51 (bs, 1H); MS (ESI−) m/z 378 (M−H−) Anal. Calcd for C16H13N3BrFO2: C, 50.21;H, 3.56; N, 10.98. Found: C, 50.76;H, 4.09; N, 10.52.

reactant | 3-Bromo-4-fluorobenzaldehyde | 1.5 mmol, 0.3 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | 1,3cyclopentadione | 1.5 mmol, 0.15 g | C1CC(=O)CC1=O | C5H6O2
reactant | 5-amino-2-methyl-1,2-dihydropyrazol-3-one | 1.5 mmol, 0.17 g | NC1=CC(N(N1)C)=O | C4H7N3O
product | 4-(3-bromo-4-fluorophenyl)-2-methyl-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione | 0.32 g | BrC=1C=C(C=CC1F)C1C2=C(NC3=C1C(N(N3)C)=O)CCC2=O | C16H13BrFN3O2
